data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_349127_1,[C:1]([N:2]([C:3]([N:4]([H:10])[H:11])=[O:7])[O:5][H:8])([O:6][H:9])([H:12])[H:13]>>[C:1]([O:6][H:9])([O:7]/[C:3](=[N:2]\[O:5][H:8])[N:4]([H:10])[H:11])([H:12])[H:13],58.00547250000818
MR_165848_0,[C:1]1([O:5][H:9])([H:12])[C:3]([O:6][H:10])([O:8][H:14])[C:2]([O:7][H:11])([H:13])[O:4]1>>[C:1]([C:3]([O:6][H:10])=[O:8])([O:4][C:2]([O:7][H:11])([H:13])[H:14])([O:5][H:9])[H:12],68.23121249997953
MR_380942_1,[C:1]([C:2]([N:6]([C:3]([H:13])([H:14])[H:15])[C:8]([N:7]([H:10])[H:21])=[C:9]([H:22])[H:23])([H:11])[H:12])([C:4]([H:16])([H:17])[H:18])=[C:5]([H:19])[H:20]>>[C:1]1([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:2]([H:11])([H:12])[N:6]([C:3]([H:13])([H:14])[H:15])[C:8](=[C:9]([H:22])[H:23])[N:7]1[H:10],57.55492749996861
MR_120322_0,[C:1]1([C:2]([H:11])([H:12])[H:13])([O:8][H:10])[C:5]([C:3]([H:14])([H:15])[H:16])([C:6]([C:4]([H:17])([H:18])[H:19])=[C:7]([H:20])[H:21])[O:9]1>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:5]([C:3]([H:14])([H:15])[H:16])([C:6]([C:4]([H:17])([H:18])[H:19])=[C:7]([H:20])[H:21])[O:9][H:10])=[O:8],32.190122499982294
MR_299601_0,[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:7]([H:10])=[C:6]([C:4]([H:16])([H:17])[H:18])[N:5]1[C:3]([H:13])([H:14])[H:15]>>[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:7]1(/[C:6]([C:4]([H:16])([H:17])[H:18])=[N:5]/[C:3]([H:13])([H:14])[H:15])[H:10],67.82396500004467
MR_52900_0,[C:1]([C:2]([H:12])([H:13])[H:14])([O:5][C:3](=[C:4]([H:10])[H:11])[O:6][H:7])([H:8])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:3](=[O:5])[O:6][H:7])([H:10])[H:11])([H:8])[H:9],59.51272749998367
MR_284061_1,[C@@:1]([N:3]([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])([O:6][N:2]([H:8])[H:9])[H:7]>>[C@@:1]1([N:3]([H:10])[H:11])([H:7])[C@@:4]([O:6][N:2]([H:8])[H:9])([H:12])[C:5]1([H:13])[H:14],55.76467000002992
MR_134602_0,[C:1](/[C:6](=[C:3]([C:2](\[O:7][H:9])=[N:8]\[N:4]([H:10])[H:11])/[N:5]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]1([H:14])[C:3]([N:5]([H:12])[H:13])=[C:2]([O:7][H:9])[N:8]1[N:4]([H:10])[H:11])([H:15])([H:16])[H:17],48.54214499996672
MR_429883_2,[C:1]([C:4]1([C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])/[C:5](=[N:7]/[H:9])[O:8]1)([N:6]([H:10])[H:11])([H:12])[H:13]>>[C:1]([C:4](/[C:5]([C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])=[N:7]\[H:9])=[O:8])([N:6]([H:10])[H:11])([H:12])[H:13],45.94304000000136
MR_248055_2,[C@:1]([C:2]([H:15])([H:16])[H:17])([C:3]([O:7][H:9])=[O:8])(/[C:5](=[C:6](\[N:4]([H:11])[H:12])[H:14])[H:13])[H:10]>>[C@@:1]1([C:2]([H:15])([H:16])[H:17])([H:10])[C@:5]([C:3]([O:7][H:9])=[O:8])([H:13])[C@:6]1([N:4]([H:11])[H:12])[H:14],70.21348499996847
MR_121961_1,[C:1]([C:3](/[C:2](=[C:4](\[O:6][H:9])[H:11])[O:5][H:8])=[N:7]/[H:10])([H:12])([H:13])[H:14]>>[C:1](/[C:3]([C:2]([C:4](=[O:6])[H:11])([O:5][H:8])[H:9])=[N:7]/[H:10])([H:12])([H:13])[H:14],59.39475749999616
MR_22395_1,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:6])(/[C:4](=[N:5]\[H:7])[H:10])([H:8])[H:9]>>[C:1](=[C:3]([C:2]([H:11])([H:12])[H:13])[O:6][C:4]([N:5][H:7])[H:10])([H:8])[H:9],61.67760250001095
MR_546586_0,[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5](\[C:3]([H:17])([H:18])[H:19])[C:6]([C:4]([H:20])([H:21])[H:22])([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])[H:9]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:6](\[C:4]([H:20])([H:21])[H:22])[N:8]([H:12])[H:13])([N:7]([H:10])[H:11])[H:9],57.29137750002764
MR_541574_1,[C:1]([C:2]([O:4][H:8])=[O:7])(/[C:3](=[N:6]\[H:11])[H:12])([O:5][H:9])[H:10]>>[C:1](=[C:2](\[O:4][H:8])[O:7]/[C:3](=[N:6]\[H:11])[H:12])(\[O:5][H:9])[H:10],69.32745499999399
MR_594947_0,[C:1](/[N:2]=[C:3](/[C:4](/[C:5](=[N:8]\[H:11])[H:13])([O:7][H:10])[H:12])[O:6][H:9])([H:14])([H:15])[H:16]>>[C:1]([N:2](/[C:3](=[C:4](\[O:7][H:10])[H:12])[O:6][H:9])/[C:5](=[N:8]\[H:11])[H:13])([H:14])([H:15])[H:16],56.16501499998222
MR_483814_2,[C:1]([O:4][O:2][O:3][O:5][H:8])([O:6][H:9])([O:7][H:10])[H:11]>>[C:1]([O:2][O:4][O:3][O:5][H:8])([O:6][H:9])([O:7][H:10])[H:11],37.343780000025504
MR_602915_1,[C:1]([C:2]([O:7][H:10])=[O:8])([C:3]([N:6]([H:15])[H:16])=[O:9])([N:4]([H:11])[H:12])[N:5]([H:13])[H:14]>>[C:1](=[C:3]([N:6]([H:15])[H:16])[O:9][C:2]([O:7][H:10])=[O:8])([N:4]([H:11])[H:12])[N:5]([H:13])[H:14],60.27702250001582
MR_176206_1,[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([N:7]=[C:5]([H:13])[H:14])=[C:4]([H:8])[O:6]1>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]1([C:4](=[O:6])[H:8])[N:7]=[C:5]([H:13])[H:14],51.0477524999898
MR_352019_1,[C:1]([C:5](/[C:6]([C:2]([H:16])([H:17])[H:18])=[C:9](\[N:8]([H:10])[H:11])[H:12])=[C:7]([C:3]([H:19])([H:20])[H:24])[C:4]([H:21])([H:22])[H:23])([H:13])([H:14])[H:15]>>[C:1]([C:5]1([H:11])[C:6]([C:2]([H:16])([H:17])[H:18])(/[C:9](=[N:8]/[H:10])[H:12])[C:7]1([C:3]([H:19])([H:20])[H:24])[C:4]([H:21])([H:22])[H:23])([H:13])([H:14])[H:15],66.0600624999681
